US03983135
A suspension of 6.95 g (0.0306 mole) of 5,5-diphenyl-2-amino-2-imidazoline-4-one in 300 ml of dry DMF is treated with 4.5 g (0.0306 mole) of 2,6-dimethylphenylisocyanate. The reaction mixture is stirred at 40°C for 2 hours. It is then poured into cold water and the resulting solids are filtered off. To the crude product is added 30 ml of water with heating; acetone is added to the heated slurry until all solids go in solution (1.5 liters of acetone). The solution is then evaporated to a volume of 300 ml., chilled, and the resulting solids are filtered off to give 1-(2,6-dimethylphenyl)-3-(5,5-diphenyl-4-oxo-2-imidazolidinylidene) urea, the pure product; no m.p. up to 350°C.

reactant | 5,5-diphenyl-2-amino-2-imidazoline-4-one | 0.0306 mole, 6.95 g | C1(=CC=CC=C1)C1(C(N=C(N1)N)=O)C1=CC=CC=C1 | C15H13N3O
reactant | 2,6-dimethylphenylisocyanate | 0.0306 mole, 4.5 g | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
reactant | water | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 1-(2,6-dimethylphenyl)-3-(5,5-diphenyl-4-oxo-2-imidazolidinylidene) urea | CC1=C(C(=CC=C1)C)NC(=O)N=C1NC(C(N1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N4O2
